Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ M admitted to ___ s/p witnessed mechanical fall down 10
stairs. He had head strike and sustained a laceration on the
posterior scalp but denies LOC. CT C-spine showed no acute
fracture or dislocation but demonstrated diffuse degenerative
changes with severe canal narrowing at C5-6.  MRI demonstrated
disc herniation at C5-6 and C6-7 with severe central canal and
foraminal narrowing. Currently, he reports no numbness, 
tingling,
or weakness.  He reports some baseline gait imbalance and 
urinary
incontinence after prostatectomy, both chronic problems for him. 

He denies any new changes since his fall.

 
Past Medical History:
HLD, balance problems for years
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admissoin exam:
General: Well-appearing male in no acute distress.
Spine exam:
Non-tender over C, T, L-spine. C-collar in place.
Motor:
  Delt Bic Tri WrE FFl FE IO  IP  glut Quad Ham TA Gastroc
L  5    ___   ___   5   5    5    5   5    5
R  5    ___   ___   5   5    5    5   5    5

Sensory:
Sensory UE
C5 (Ax)  R nl, L nl
C6 (MC)  R nl, L nl
C7 (Mid finger) R nl, L nl
C8 (MACN)  R nl, L nl
T1 (MBCN)  R nl, L nl
T2-L2 Trunk R nl, L nl

Sensory ___
L2 (Groin): R nl, L nl
L3 (Leg) R nl, L nl
L4 (Knee) R nl, L nl
L5 (Grt Toe): R nl, L nl
S1 (Sm toe): R nl, L nl
S2 (Post Thigh): R nl, L nl

DTRs:
  Bi Tri ___ 
L  2  2    2    
R  2  2    2    

___: positive bilaterally
Babinski: downgoing
Clonus: none

VS in ED bay: Temp HR 69 BP 136/66 RR 11 96 RA
FSG: 111
Neuro: GCS 15
HEENT: Lac on the back on the head. no blood in nares, TM 
occluded by seroma. Hard of hearing. 
Ext: Left knee abrasion. No pelvis instability. Moves ext 
spontaneously x4 
Spine: No stepoffs, no spine tenderness. 
eFAST negative
 
Pertinent Results:
___ 11:30PM BLOOD ___ PTT-31.2 ___
___ 11:30PM BLOOD ___ 11:40PM BLOOD Glucose-115* Lactate-1.3 Na-139 K-4.2 
Cl-105 calHCO3-22

CXR: IMPRESSION: 
1. No fracture.
2. Although no fracture or other bone abnormality is seen, 
conventional chest
radiographs are not appropriate for detection or 
characterization of chest
cage lesions. Any focal findings should be clearly marked and 
imaged with
either bone detail views or CT scanning.

CT head
IMPRESSION: 
1. No acute intracranial process.  Specifically no intracranial 
hemorrhage.
2. Small left occipital scalp subgaleal hematoma.
3. Chronic changes as described above.

CT c-spine
1. No acute fracture acute malalignment.
2. Severe degenerative changes throughout the cervical spine 
with moderate
canal narrowing at C3-C4, C4-C5, and C5-C6 and severe canal 
narrowing at C5-C6
by large posterior disc osteophyte complex.  Of note this places 
the patient
at increased risk for cord injury.
 
MRI c-spine
1. No evidence of acute fracture or malalignment of the cervical 
spine.
2. Focal cord signal abnormality at the level of C6-C7, either 
secondary to
chronic remodeling and myelomalacia or secondary to acute 
trauma.  Clinical
correlation is recommended.
3. Multilevel multifactorial degenerative disease of the 
cervical spine, worst
at C5-C6 and C6-C7 with severe spinal ___ and neural foramen 
narrowing as
described above.
 
Brief Hospital Course:
Mr. ___ was admitted to the hospital after a fall of ___ 
steps.  He was placed in a c-collar and admitted to the trauma 
surgery team.  His CT c-spine showed severe narrowing and some 
osteophytes, placing him at increased risk for cord injury.  
Spine was consulted and an MRI c-spine were obtained. He 
otherwise had a CT head that was negative, his FAST exam was 
negative, and his CXR were negative for any other concerning 
signs.  He was doing well and in no acute distress. MRI of the 
spine showed.  Focal cord signal abnormality at the level of 
C6-C7, and multilevel multifactorial degenerative disease of the 
cervical spine, worst at C5-C6 and C6-C7 with severe spinal 
canal and neural foramen narrowing. Spine surgery offered him a 
decompression surgery for what they thought was a chronic 
deterioration, which had also likely contributed to his impaired 
balance throughout the last few years.  He was otherwise 
neurologically intact in the hospital. He declined to proceed 
with surgery now and mentioned he'd think about it and look into 
the options further in the ensuing weeks. He was allowed to eat 
and ambulated with physical therapy, which cleared him to go 
home.  He was not complaining of any pain and remained 
neurologically intact throughout the day he spent in the 
hospital. In the early afternoon, he left the hospital against 
medical advice and before anyone could make it to the room to 
convince him otherwise. We did not have the opportunity, 
therefore, to clear his C-spine clinically. He was otherwise 
tolerating a diet, but he left before he was able to void within 
a couple of hours after his foley was removed.
 
Medications on Admission:
Valium, crestor, gabapentin
 
Discharge Medications:
Valium, crestor, gabapentin
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
mechanical fall
 
Discharge Condition:
AOx3, ambulating independently, pain well controlled
 
Discharge Instructions:
We did not have the opportunity to discuss discharge 
instructions with him, as he left before anyone could rush to 
his room to do so. We had previously told him that we had to 
wait for the MRI c-spine read before we could discuss clearing 
his c-collar.

We also gave him the name ___ Dr. ___, whom he could 
reach out to if he decides to proceed with surgery to decompress 
his c-spine.
 
Followup Instructions:
___